US07531532B2
1-[1-(2-Dimethylaminoethyl)piperidin-4-yl]-3-[4-(4-{3-[2-(4-fluorophenyl)acetyl]ureido}phenoxy)pyridin-2-yl]-1-methylurea
To a solution of 3-[4-(4-aminophenoxy)-pyridin-2-yl]-1-[1-(2-dimethylaminoethyl)piperidin-4-yl]-1-methylurea (154 mg) in tetrahydrofuran (5.0 ml) was added a solution of 2-(4-fluorophenyl)acetyl isocyanate in tetrahydrofuran (0.25 M, 3.73 ml) at room temperature, followed by stirring at room temperature for 10.5 hrs. The reaction mixture was partitioned between ethyl acetate and a saturated aqueous solution of sodium hydrogencarbonate. The organic layer was washed with brine, and dried over anhydrous sodium sulfate. The organic layer was concentrated to give a residue, which was then purified by silica gel column chromatography (FUJI Silysia NH, eluent; ethyl acetate, then ethyl acetate:methanol=10:1). Fractions containing a target compound were concentrated to give a residue, to which diethyl ether (1 ml) and hexane (1 ml) were added to give a precipitate. The precipitate was filtered off, and dried under aeration to provide the titled compound (29.8 mg, 13.5%) as white powder.

reactant | 3-[4-(4-aminophenoxy)-pyridin-2-yl]-1-[1-(2-dimethylaminoethyl)piperidin-4-yl]-1-methylurea | 154 mg | NC1=CC=C(OC2=CC(=NC=C2)NC(N(C)C2CCN(CC2)CCN(C)C)=O)C=C1 | C22H32N6O2
reactant | 2-(4-fluorophenyl)acetyl isocyanate | FC1=CC=C(C=C1)CC(=O)N=C=O | C9H6FNO2
reactant | diethyl ether | 1 ml | C(C)OCC | C4H10O
reactant | hexane | 1 ml | CCCCCC | C6H14
solvent | tetrahydrofuran | 5.0 ml | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 0.25 M, 3.73 ml | O1CCCC1 | C4H8O
product | 1-[1-(2-Dimethylaminoethyl)piperidin-4-yl]-3-[4-(4-{3-[2-(4-fluorophenyl)acetyl]ureido}phenoxy)pyridin-2-yl]-1-methylurea | 29.8 mg, 13.5% | CN(CCN1CCC(CC1)N(C(=O)NC1=NC=CC(=C1)OC1=CC=C(C=C1)NC(=O)NC(CC1=CC=C(C=C1)F)=O)C)C | C31H38FN7O4
